US07279600B2
3,5-Dichloro-4-formyl-phenyl trifluoromethanesulfonate
The title compound was prepared by reacting 2,6-dichloro-4-hydroxy-benzaldehyde (2.35 g, 12.3 mmol) with trifluoromethanesulfonic anhydride (4.51 g, 16.0 mmol) according to method E to yield a 3.45 g (87%) of a clear yellow oil. TLC analysis of this oil indicated that it appeared to decompose into the starting phenol upon standing. 1H NMR (DMSO-d6): δ 8.03 (2H, s), 10.31 (1H, s).

reactant | 2,6-dichloro-4-hydroxy-benzaldehyde | 12.3 mmol, 2.35 g | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
reactant | trifluoromethanesulfonic anhydride | 16.0 mmol, 4.51 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 3,5-Dichloro-4-formyl-phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=C(C(=C1)Cl)C=O)Cl)(F)F | C8H3Cl2F3O4S
